US03954732
By treating in the similar manner as described in Example 16 using methyl 2-bromomethyl-2-methyl-6-(2-phenoxyacetamido)penam-3-carboxylate (0.88 g), aniline (0.28 g), silver fluoroborate (0.43 g) and methylene chloride (15 ml), there was obtained oily methyl 2-anilinomethyl-2-methyl-6-(2-phenoxyacetamido)-penam-3-carboxylate (0.41 g) from the fractions of the third to seventh. Infrared Absorption Spectrum (CHCl3) 3410, 1785, 1748, 1690 cm-1.

reactant | methyl 2-bromomethyl-2-methyl-6-(2-phenoxyacetamido)penam-3-carboxylate | 0.88 g | BrCC1(S[C@H]2N(C1C(=O)OC)C(C2NC(COC2=CC=CC=C2)=O)=O)C | C17H19BrN2O5S
reactant | aniline | 0.28 g | NC1=CC=CC=C1 | C6H7N
catalyst | silver fluoroborate | 0.43 g | F[B-](F)(F)F.[Ag+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-anilinomethyl-2-methyl-6-(2-phenoxyacetamido)-penam-3-carboxylate | 0.41 g | N(C1=CC=CC=C1)CC1(S[C@H]2N(C1C(=O)OC)C(C2NC(COC2=CC=CC=C2)=O)=O)C | C23H25N3O5S
